US05082967
Sodium metal (0.31 g, 0.014 mol) was dissolved in absolute EtOH (20 mL). To this mixture was added diethyl malonate (2.2 g, 0.014 mol) in EtOH (5 mL) and the above 7-oxa-10-thiadodecyl bromide (3 g, 0.011 mol) in EtOH (5 mL) at room temperature. The reaction mixture was refluxed for 5 h. After evaporation of the solvent, the residue was dissolved in ethyl acetate (120 mL). The organic phase was washed with water (2×30 mL), brine (30 mL), and dried (Na2SO4). The crude product was purified by Kugelrohr distillation to give ethyl 2-ethoxycarbonyl9-oxa-12-thiatetradecanoate (2.3 g, 58%); bp 122° C.-128° C./0.04 torr; NMR: 1.27 (6H, t, J=7 Hz), 3.3-3.7 (5H, m), and 4.17 ppm (4H, q, J=7 Hz), 1.2-1.9 (10H, m), 2.59 (2H, q, J=7 Hz), 2.68 (2H, t, J=7 Hz), 3.1-3.7 (5H, m), and 4.17 ppm (4H, q, J=7 Hz).

reactant | Sodium | 0.014 mol, 0.31 g | [Na] | Na
reactant | diethyl malonate | 0.014 mol, 2.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 7-oxa-10-thiadodecyl bromide | 0.011 mol, 3 g | C(CCCCCOCCSCC)Br | C10H21BrOS
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | EtOH | 5 mL | CCO | C2H6O
product | ethyl 2-ethoxycarbonyl9-oxa-12-thiatetradecanoate | 2.3 g, 58% | C(C)OC(=O)C(C(=O)OCC)CCCCCCOCCSCC | C17H32O5S
